US04608374
11-{1-[2-(4-Trifluoromethylphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
A mixture of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (5.07 g, 0.019 mole), (p-trifluoromethylphenyl)ethyl methanesulfonate (6.08 g, 0.023 mole) and K2CO3 (10.7 g) in 150 ml dimethylformamide was heated at 90° C. for 7 hours.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.019 mole, 5.07 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | (p-trifluoromethylphenyl)ethyl methanesulfonate | 0.023 mole, 6.08 g | CS(=O)(=O)OCCC1=CC=C(C=C1)C(F)(F)F | C10H11F3O3S
reactant | K2CO3 | 10.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 11-{1-[2-(4-Trifluoromethylphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | FC(C1=CC=C(C=C1)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2)(F)F | C26H27F3N2O
